US05374643
B. 2-(3-Aminophenyl)1,3-oxazole
To a slurry of stannous chloride dihydrate (11.8 g, 0.05 mol in 35 mL of ethyl acetate under argon at room temperature was added 2-(3-nitro-phenyl)1,3-oxazole (1.95 g, 0.01 mol, from part A). After heating at 80° C. for 20 minutes, the mixture was poured onto crushed ice and made basic (pH 8.5) with saturated sodium bicarbonate. After filtering the resulting solution through a pad of celite to remove insolubles, the organic layer was separated, washed with water and brine, dried (anhydrous magnesium sulfate) and concentrated in vacuo to give 1.64 g of an oil that slowly solidified. 13C-NMR (CDCl3) δ162.1,146.8, 138.3, 129.7, 128.2, 117.0, 116.5, 112.5. m/s (m+H)+ @ 161; MW=160.

reactant | 2-(3-nitro-phenyl)1,3-oxazole | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC=CN1 | C9H6N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-Aminophenyl)1,3-oxazole | 1.64 g | NC=1C=C(C=CC1)C=1OC=CN1 | C9H8N2O
